US04012499
To a solution of sodium ethoxide in ethanol (20 ml) (prepared from 0.46 g sodium) was added 3-(5-tetrazolyl)thioxanthone-10,10-dioxide (6.24g). Methyl iodide (2.84 g) was added and the mixture boiled under reflux for 2 hr. During the reflux period a yellow product was deposited. On cooling it was filtered off, washed with water and recrystallised twice from acetic acid to give 3-(2-methyl-5-tetrazolyl)thioxanthone-10,10-dioxide as yellow needles, m.p. 204°-205° C.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | 3-(5-tetrazolyl)thioxanthone-10,10-dioxide | 6.24g | N1N=NN=C1C=1C=CC=2C(C3=CC=CC=C3S(C2C1)(=O)=O)=O | C14H8N4O3S
reactant | Methyl iodide | 2.84 g | CI | CH3I
solvent | ethanol | 20 ml, 0.46 g | C(C)O | C2H6O
product | 3-(2-methyl-5-tetrazolyl)thioxanthone-10,10-dioxide | CN1N=C(N=N1)C=1C=CC=2C(C3=CC=CC=C3S(C2C1)(=O)=O)=O | C15H10N4O3S
